US08242125B2
117-A. 4-Methyl-1H-indol-5-ol
5-Methoxy-4-methyl-1H-indole (10 g, 62.0 mmol) is dissolved in DCM (400 mL) and cooled to 0° C. BBr3 (155 mL, 155 mmol) is added dropwise over 1 hour and the black mixture is allowed to warm to room temperature overnight (17 hours). The reaction is poured over a mixture of ice and sodium bicarbonate (aq) solution and extracted with ethyl acetate (1.5 L) and concentrated to a black oil. The oil is absorbed onto silica and separated via FCC (0-50% ethyl acetate:heptanes) to obtain the title compound as a solid. MS (ESI) m/z 148.23 (M+1).

reactant | 5-Methoxy-4-methyl-1H-indole | 62.0 mmol, 10 g | COC=1C(=C2C=CNC2=CC1)C | C10H11NO
reactant | BBr3 | 155 mmol, 155 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 4-Methyl-1H-indol-5-ol | CC1=C2C=CNC2=CC=C1O | C9H9NO
